US04966902
(3.1) 2-(6-Hydroxy-pyridazin-3-yl)-propanenitrile
60.4 g (2.02 mol) of 80% strength sodium hydride in white oil are suspended in 2 liters of tetrahydrofuran and 311.8 g (2.02 mol) of tert.-butyl 2-cyanopropionate are added dropwise at 20°-30° C. During the course of 45 minutes this clear solution is added dropwise to a solution of 298 g (2.0 mol) of 3,6-dichloropyridazine and the mixture is heated under reflux for 2 hours. 317 ml of acetic acid are then added and the solvent is removed in vacuo. The residue is taken up in a mixture of 6,400 ml of acetic acid, 250 ml of acetic anhydride and 32 g of p-toluenesulfonic acid monohydrate, heated under reflux for 3 hours and again brought to dryness in vacuo. The residue is suspended in a little water, adjusted to pH 5 with sodium hydroxide solution and the water removed by evaporation. The residue is extracted hot using ethyl acetate. 99.7 g (33% of theory) of crude product are thus obtained, which can be employed for the following reaction without further processing.

reactant | sodium hydride | [H-].[Na+]
reactant | tert.-butyl 2-cyanopropionate | 2.02 mol, 311.8 g | C(#N)C(C(=O)OC(C)(C)C)C | C8H13NO2
reactant | 3,6-dichloropyridazine | 2.0 mol, 298 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | acetic acid | 317 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
product | 2-(6-Hydroxy-pyridazin-3-yl)-propanenitrile | OC1=CC=C(N=N1)C(C#N)C | C7H7N3O
